US07214824B2
26(d): [(1,1-Dimethyl-2,3-dihydro-1H-inden-5-yl)oxy]acetic acid
A mixture of ethyl [(1,1-dimethyl-2,3-dihydro-1H-inden-5-yl)oxy]acetate (1.14 g, 4.58 mmol) in ethanol (20 ml) and 2M sodium hydroxide aqueous solution (4 ml) was refluxed for 2 hours. After cooling to ambient temperature, the solvent was evaporated in vacuo and the aqueous solution was acidified to pH 2 with 2M hydrochloride aqueous solution with ice-cooling. The precipitate solid was collected and dried in vacuo to give 894 mg (89% yield) of the title compound as a pale gray solid.

reactant | ethyl [(1,1-dimethyl-2,3-dihydro-1H-inden-5-yl)oxy]acetate | 4.58 mmol, 1.14 g | CC1(CCC2=CC(=CC=C12)OCC(=O)OCC)C | C15H20O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2M, 4 ml | [OH-].[Na+]
product | [(1,1-Dimethyl-2,3-dihydro-1H-inden-5-yl)oxy]acetic acid | 894 mg, 89% yield | CC1(CCC2=CC(=CC=C12)OCC(=O)O)C | C13H16O3
